US07713994B2
To a suspension of 4H-Isoquinoline-1,3-dione (1.5 g, 9.3 mmol) in 22.5 mL of a 4:1 mixture of acetic anhydride and N,N-dimethylformamide, respectively, is added trimethylorthoformate (2.0 mL, 18.6 mmol). The reaction mixture is shaken in a heating block at 125° C. for 1 hour, at which point a beige precipitate formed, product. Upon cooling to room temperature, more product precipitated out. The precipitate is then filtered off, rinsed with copious amounts of ether, and dried to yield 1.47 g of 4-Methoxymethylene-4H-isoquinoline-1,3-dione.

reactant | 4H-Isoquinoline-1,3-dione | 9.3 mmol, 1.5 g | C1(NC(CC2=CC=CC=C12)=O)=O | C9H7NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethylorthoformate | 18.6 mmol, 2.0 mL | COC(OC)OC | C4H10O3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Methoxymethylene-4H-isoquinoline-1,3-dione | 1.47 g | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
